US06060488
6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[1-Hexylpiperidin-4-oxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-[1-hexylpiperidin-4-oxy]benzoyl)benzo[b]thiophene (375 mg, 0.941 mmol), ethane thiol (3.36 mmol), and aluminum chloride (538 mg, 4.04 mmol) were converted to 209 mg (42%) of the title compound by the procedure of Example 16. MS(FD) 529(M+). EA calculated for C32H35NO4S: C, 72.56; H, 6.66; N, 2.64. Found: C, 72.33; H, 6.89; N, 2.52.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-[1-hexylpiperidin-4-oxy]benzoyl)benzo[b]thiophene | 0.941 mmol, 375 mg | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2CCN(CC2)CCCCCC)=O)C2=CC=C(C=C2)OC)C1 | C34H39NO4S
reactant | ethane thiol | 3.36 mmol | C(C)S | C2H6S
reactant | aluminum chloride | 4.04 mmol, 538 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Hydroxy-2-(4-Hydroxyphenyl)-3-(4-[1-Hexylpiperidin-4-oxy]benzoyl)benzo[b]thiophene | 209 mg, 42% | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2CCN(CC2)CCCCCC)=O)C2=CC=C(C=C2)O)C1 | C32H35NO4S
